US05486545
Into a 500 mL round bottom three neck flask equipped with an overhead stirrer, thermometer, condenser and nitrogen inlet were placed 31 g (0.50 mol) of 1,2-ethanediol, 182 g (1.5 mol) of allyl bromide, 75 mL of toluene and 60 g (1.5 mole) of NaOH. The reaction mixture was stirred at room temperature for 15 minutes. Then 9 g (0.03 mole) of tetra-n-butylammonium bromide was added and the reaction mixture slowly heated to reflux (50°-60° C.) and maintained at that temperature overnight. The reaction mixture was poured into 500 mL of distilled water, the organic layers were separated and the aqueous layer extracted with fresh toluene. The combined organic layers were washed with three 200 mL portions of distilled water and the organic phase was dried over anhydrous Na2SO4. Excess allyl bromide and toluene were removed using a rotary evaporator and the reaction mixture was distilled under vacuum. The volatile product amounted to 53 g (74% recovered yield). Fractional distillation gave 99% pure 1,2-diallyloxyethane ether with a boiling point of 55° C./20 mm Hg.

reactant | 1,2-ethanediol | 0.50 mol, 31 g | C(CO)O | C2H6O2
reactant | allyl bromide | 1.5 mol, 182 g | C(C=C)Br | C3H5Br
reactant | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
reactant | NaOH | 1.5 mole, 60 g | [OH-].[Na+]
catalyst | tetra-n-butylammonium bromide | 0.03 mole, 9 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 500 mL | O | H2O
product | 1,2-diallyloxyethane ether | 99% | C(C=C)OCCOCC=C.CCOCC | InChI=1S/C8H14O2.C4H10O/c1-3-5-9-7-8-10-6-4-2;1-3-5-4-2/h3-4H,1-2,5-8H2;3-4H2,1-2H3
